US05696112
N-[4-[(5,6,7,8-Tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide
As described for Example 1, a solution of 2 mmol of 4-(2-chloro-4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine and 5 mmol of triethylamine in 10 ml of dichloromethane under argon is reacted with [1,1'-biphenyl]-2-carbonyl chloride for 16 hours at room temperature to give the product as a solid.

reactant | 4-(2-chloro-4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 2 mmol | ClC1=C(C(=O)N2C3=C(CCCC2)SC=C3)C=CC(=C1)N | C15H15ClN2OS
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | [1,1'-biphenyl]-2-carbonyl chloride | C=1(C(=CC=CC1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[4-[(5,6,7,8-Tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-3-chlorophenyl][1,1'-biphenyl]-2-carboxamide | S1C=CC=2N(CCCCC21)C(=O)C2=C(C=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)Cl | C28H23ClN2O2S
